US04359420
A suspension of 2.67 g (10 mmol) of (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxaldehyde and 0.85 g (12.5 mmol) of hydroxylamine hydrochloride in 60 ml of water is treated dropwise at room temperature with a solution of 3.57 g (12.5 mmol) of sodium carbonate decahydrate in 10 ml of water. The mixture is stirred at 70° C. for 4 hours. After cooling, the separated material is filtered off under suction, washed with water and recrystallised directly from 50 ml of dimethylformamide. There is obtained (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxaldehyde-1-oxime of melting point 285° C.

reactant | (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxaldehyde | 10 mmol, 2.67 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C=O)CCC2 | C15H13N3O2
reactant | hydroxylamine hydrochloride | 12.5 mmol, 0.85 g | Cl.NO
reactant | sodium carbonate decahydrate | 12.5 mmol, 3.57 g | O.O.O.O.O.O.O.O.O.O.C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 60 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxaldehyde-1-oxime | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C=NO)CCC2 | C15H14N4O2
